US04532367
4-chloro-2-methyl-6-(4'-tert. butylbenzyl)-phenol
106.5 g (0.75 mol) 4-chloro-2-methylphenol and 45.67 g (0.25 mol) 4-tert. butylbenzylchloride are dissolved in 200 ml chloroform, and 22.5 g water-free zinc chloride are added as Friedel-Crafts catalyst. Thereafter the reaction mixture is stirred, whereby indeed at room temperature to the start of the reaction intense gas development, i.e. intense reaction, is to be noted. Subsequently the reaction mixture is stirred at 60° C. 5-6 h and washed three times each with 200 ml water for the purpose of removing the zinc chloride. The organic phase is dried across magnesium sulfate and the chloroform is driven off in a vacuum. At 182°-185° C./0.3 Torr the 4-chloro-2-methyl-6-(4'-tert. butylbenzyl)-phenol distills over as water-clear, viscous, nearly odorless liquid.

reactant | 4-chloro-2-methylphenol | 0.75 mol, 106.5 g | ClC1=CC(=C(C=C1)O)C | C7H7ClO
reactant | 4-tert. butylbenzylchloride | 0.25 mol, 45.67 g | C(C)(C)(C)C1=CC=C(CCl)C=C1 | C11H15Cl
reactant | water | 22.5 g | O | H2O
solvent | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-chloro-2-methyl-6-(4'-tert. butylbenzyl)-phenol | ClC1=CC(=C(C(=C1)CC1=CC=C(C=C1)C(C)(C)C)O)C | C18H21ClO
